US07544717B2
To 3.0 g (16.6 mmol) of methyl 5-ethyl-2-hydroxybenzoate in 100 mL of CH2Cl2 at 0° C was added 5.8 mL (41.5 mmol, 2.5 eq.) of Et3N. To this stirred solution was added dropwise 3.6 mL (21.6 mmol, 1.3 eq.) of Tf2O. Following complete addition 0.2 g (cat.) of 4-dimethylamino pyridine was added and the reaction mixture was allowed to warm to room temperature. After 4 h stirring at this temperature the reaction was judged complete, and quenched by the addition of a saturated aqueous solution of NaHCO3 (100 mL). The resulting layers were separated and the aqueous layer extracted twice with CH2Cl2 (100 mL). The combined organic layers were dried over MgSO4, filtered and concentrated under reduced pressure. The resulting residue, was purified by column chromatography to yield the desired methyl 5-ethyl-2-{[(trifluoromethyl)sulfonyl]oxy}benzoate. 1H NMR (400 MHz, CDCl3): δ=7.94 (d, J=2.3 Hz, 1 H), 7.47 (dd, J=2.3, 8.4 Hz, 1 H), 7.24 (d, J=8.4 Hz, 1 H), 4.00 (s, 3 H), 2.76 (q, J=7.6 Hz, 2 H), 1.28 (t, J=7.6 Hz, 3 H).

reactant | methyl 5-ethyl-2-hydroxybenzoate | 16.6 mmol, 3.0 g | C(C)C=1C=CC(=C(C(=O)OC)C1)O | C10H12O3
reactant | Et3N | 41.5 mmol, 5.8 mL, 2.5 eq. | CCN(CC)CC | C6H15N
reactant | Tf2O | 21.6 mmol, 3.6 mL, 1.3 eq. | O(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylamino pyridine | 0.2 g | CN(C1=CC=NC=C1)C | C7H10N2
product | methyl 5-ethyl-2-{[(trifluoromethyl)sulfonyl]oxy}benzoate | C(C)C=1C=CC(=C(C(=O)OC)C1)OS(=O)(=O)C(F)(F)F | C11H11F3O5S
